US06503907B2
2.05 g (9 mmol) 1-(4-Fluoro-phenyl)-1H-indol-5-ol in 25 ml acetone were treated with 4.7 ml (30 mmol) 1,6-dibromohexane and 4.14 g (30 mmol) K2CO3 powder in 25 ml acetone. The mixture was stirred at 55° C. for 6 h, and at RT for 20 h. Acetone was added, and the suspension filtered. Purification of the crude product with column chromatography with hexane/EtOAc 49:1 yielded 2.4 g (68%) 5-(6-Bromo-hexyloxy)-1-(4-fluoro-phenyl)-1H-indole as colorless solid, MS: 389 (M, 1Br, 1Cl).

reactant | 1-(4-Fluoro-phenyl)-1H-indol-5-ol | 9 mmol, 2.05 g | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)O | C14H10FNO
reactant | 1,6-dibromohexane | 30 mmol, 4.7 ml | BrCCCCCCBr | C6H12Br2
reactant | K2CO3 | 30 mmol, 4.14 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 5-(6-Bromo-hexyloxy)-1-(4-fluoro-phenyl)-1H-indole | 2.4 g, 68% | BrCCCCCCOC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C20H21BrFNO
